US04769375
2-Methyl-8a-morpholino-3-nitro-4-(2-trifluoromethylphenyl)-4a,5,6,7,8,8a-hexahydro-4H-chromene
10.4 g (40 mmol) of 2-nitro-1-(2-trifluoromethylphenyl)-but-1-en-3-one and 6.7 g (40 mmol) of 1-morpholinocyclohexene are brought together in 20 ml of ethanol at room temperature. An exothermic reaction takes place and after a short time the product crystallizes in pale yellow crystals as an isomer mixture.

reactant | 2-nitro-1-(2-trifluoromethylphenyl)-but-1-en-3-one | 40 mmol, 10.4 g | [N+](=O)([O-])C(=CC1=C(C=CC=C1)C(F)(F)F)C(C)=O | C11H8F3NO3
reactant | 1-morpholinocyclohexene | 40 mmol, 6.7 g | O1CCN(CC1)C1=CCCCC1 | C10H17NO
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-Methyl-8a-morpholino-3-nitro-4-(2-trifluoromethylphenyl)-4a,5,6,7,8,8a-hexahydro-4H-chromene | CC=1OC2(CCCCC2C(C1[N+](=O)[O-])C1=C(C=CC=C1)C(F)(F)F)N1CCOCC1 | C21H25F3N2O4
